US08426414B2
A solution of trans-2-pyridin-2-yl-cyclopropylcarboxylic acid (270 mg, 1.7 mmol) and dichloromethane (15 mL) was treated with oxalyl chloride (170 μL, 2.0 mmol) and DMF (1 drop). The resulting reaction mixture was maintained at 35° C. for 3 h, then concentrated under reduced pressure to dryness. The residue was dissolved in dichloromethane (15 mL), and treated with tert-butyl (2S,3S)-1-(4-(tert-butyldimethylsilyloxy)phenylamino)-3-methylpentan-2-ylcarbamate (700 mg, 1.7 mmol) and triethylamine (690 μL, 5.0 mmol). The reaction mixture was maintained at room temperature overnight, then diluted with diethyl ether (30 mL) washed with saturated aqueous sodium bicarbonate (30 mL) and brine (30 mL), then dried over MgSO4, filtered and concentrated to afford a residue that was purified by column chromatography on silica gel (eluting with 15% ethyl acetate in hexanes) to afford tert-butyl (2S,3S)-1-(N-(4-(tert-butyldimethylsilyloxy)phenyl)-trans-2-(pyridin-2-yl)cyclopropanecarboxamido)-3-methylpentan-2-ylcarbamate (720 mg, 77% yield) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 8.04-8.13 (m, 1H), 7.25-7.36 (m, 1H), 6.91-7.00 (m, 1H), 6.87-6.91 (m, 1H), 6.76-6.86 (m, 2H), 6.55-6.62 (m, 1H), 6.46-6.55 (m, 1H), 4.83-4.98 (m, 1H), 4.15-4.27 (m, 1H), 3.45-3.64 (m, 1H), 2.81-2.93 (m, 1H), 2.23-2.48 (m, 1H), 1.68-1.81 (m, 1H), 1.37 (s, 3H), 1.29-1.52 (m, 2H), 1.28 (s, 3H), 1.25 (s, 3H), 1.15-1.22 (m, 1H), 0.86-0.97 (m, 1H), 0.78 (d, J=5.1 Hz, 9H), 0.67-0.71 (m, 3H), 0.60-0.67 (m, 3H), −0.06-0.02 (m, 6H); LRMS (ESI) m/e 568.3 [(M+H)+, calcd for C32H50N3O4Si 568.3].

reactant | trans-2-pyridin-2-yl-cyclopropylcarboxylic acid | 1.7 mmol, 270 mg | N1=C(C=CC=C1)[C@H]1[C@@H](C1)C(=O)O | C9H9NO2
reactant | oxalyl chloride | 2.0 mmol, 170 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl (2S,3S)-1-(4-(tert-butyldimethylsilyloxy)phenylamino)-3-methylpentan-2-ylcarbamate | 1.7 mmol, 700 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC[C@H]([C@H](CC)C)NC(OC(C)(C)C)=O | C23H42N2O3Si
reactant | triethylamine | 5.0 mmol, 690 μL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | tert-butyl (2S,3S)-1-(N-(4-(tert-butyldimethylsilyloxy)phenyl)-trans-2-(pyridin-2-yl)cyclopropanecarboxamido)-3-methylpentan-2-ylcarbamate | 720 mg, 77% yield | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)N(C(=O)[C@H]1[C@@H](C1)C1=NC=CC=C1)C[C@H]([C@H](CC)C)NC(OC(C)(C)C)=O | C32H49N3O4Si
